US06849636B2
2-Chloro-1,3-dimethyl-4,5-dihydro-1H-imidazol-3-ium chloride (5.07 g, 30.0 mmol) was added to a solution of 2-methyl-4-methoxybenzoic acid (2-D) (856 mg, 5.0 mmol) and 4-pentylbicyclo[2.2.2]octane-1-carbohydrazide (2-C) (1.25 g, 5.25 mmol) in methylene chloride (60 mL) followed by triethylamine (8.36 mL, 60 mmol) and the mixture stirred at room temperature for 48 h. The mixture was diluted with methylene chloride and washed with water, 1N HCl, 10% NaHCO3, brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by column chromatography (silica gel, hexane:ethyl acetate, 9:1) to give 2-(4-methoxy-2-methylphenyl)-5-(4-pentylbicyclo[2.2.2]oct-1-yl)-1,3,4-oxadiazole (2-E) Mass spectrum: 369 (M+1); 1H NMR (500 MHz, CDCl3): δ 0.93 (t, 3H); 1.27 (m, 8H); 1.56 (m, 6H); 2.03 (m, 6H); 2.70 (s, 3H); 3.89 (s, 3H); 6.86 (m, 2H); 7.89 (d, 1H) ppm.

reactant | 2-Chloro-1,3-dimethyl-4,5-dihydro-1H-imidazol-3-ium chloride | 30.0 mmol, 5.07 g | [Cl-].ClC=1N(CC[N+]1C)C
reactant | 2-methyl-4-methoxybenzoic acid | 5.0 mmol, 856 mg | CC1=C(C(=O)O)C=CC(=C1)OC | C9H10O3
reactant | 4-pentylbicyclo[2.2.2]octane-1-carbohydrazide | 5.25 mmol, 1.25 g | C(CCCC)C12CCC(CC1)(CC2)C(=O)NN | C14H26N2O
reactant | triethylamine | 60 mmol, 8.36 mL | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 60 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-methoxy-2-methylphenyl)-5-(4-pentylbicyclo[2.2.2]oct-1-yl)-1,3,4-oxadiazole | COC1=CC(=C(C=C1)C=1OC(=NN1)C12CCC(CC1)(CC2)CCCCC)C | C23H32N2O2
